US04067723
A mixture of 2-(2-methylbenzyl)furan (5.2 g.), anhydrous sodium carbonate (12.8 g.) and methanol (120 ml.) was stirred at -2° C. during the addition, over 40 minutes, of a solution of bromine (1.6 ml.; 9.3 g.) in methanol (24 ml.). The mixture was stirred for a further 5 minutes, diluted with water (300 ml.) and extracted with toluene (4 × 35 ml.). The combined toluene extracts were dried over magnesium sulphate and evaporated to dryness to give crude 2-(2-methylbenzyl)-2,5-dimethoxy-2,5-dihydrofuran (7.2 g.) in the form of a pale brown coloured oil, which was then heated under reflux with phenol (20 g.) and hydrazine hydrate (2.6 ml.) for 70 hours in an oil bath at 120° C. Hydrochloric acid (100 ml. of 2N and 10 ml. of concentrated hydrochloric acid) was added and the mixture was steam-distilled to remove phenol. The mixture was then cooled and extracted with diethyl ether (50 ml.). The ether solution was extracted with N hydrochloric acid (5 × 10 ml.). Dissolved diethyl ether was removed from the combined aqueous acid extracts by the passage of a stream of air. The aqueous acid solution was then treated with charcoal, filtered, neutralised with solid sodium bicarbonate, basified by the addition of aqueous sodium hydroxide solution (2N; 10 ml.) and extracted with chloroform (5 × 20 ml.). The combined chloroform extracts were washed with water, dried over magnesium sulphate and distilled to give 3-(2-methylbenzyl)pyridazine (2.7 g.) as a white solid, m.p. 86°-89° C. [b.p. 115°-125° C. (bath temperature)/0.1 mm.Hg], the melting point of which was raised to 89°-91° C. by dissolution in 2N hydrochloric acid, filtration and precipitation from the clarified solution by the addition of solid sodium carbonate.

reactant | 2-(2-methylbenzyl)furan | 5.2 g | CC1=C(CC=2OC=CC2)C=CC=C1 | C12H12O
reactant | sodium carbonate | 12.8 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | bromine | 1.6 ml, 9.3 g | BrBr | Br2
reactant | phenol | 20 g | C1(=CC=CC=C1)O | C6H6O
reactant | hydrazine hydrate | 2.6 ml | O.NN
reactant | Hydrochloric acid | 2N, 100 ml | Cl | ClH
solvent | methanol | 24 ml | CO | CH4O
solvent | water | 300 ml | O | H2O
solvent | methanol | 120 ml | CO | CH4O
product | 3-(2-methylbenzyl)pyridazine | 2.7 g | CC1=C(CC=2N=NC=CC2)C=CC=C1 | C12H12N2
